US09340546B2
Tetrahydropyran-4-sulfonyl chloride (16.28 mg, 0.08815 mmol) was added to a suspension of 2-amino-6-fluoro-N-(5-fluoro-4-piperazin-1-yl-3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide (30 mg, 0.08014 mmol) (synthesized according to the procedure similar to Example 2) and Et3N (12.16 mg, 16.75 μL, 0.1202 mmol) in DMF (0.2 mL). The crude mixture was purified by Fractionlynx HPLC. The clean aqueous fractions were combined and lyophilised, yielding 2-amino-6-fluoro-N-(5-fluoro-4-(4-((tetrahydro-2H-pyran-4-yl)sulfonyl)piperazin-1-yl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide. MS (ES+) 523.1.

reactant | Tetrahydropyran-4-sulfonyl chloride | 0.08815 mmol, 16.28 mg | O1CCC(CC1)S(=O)(=O)Cl | C5H9ClO3S
reactant | 2-amino-6-fluoro-N-(5-fluoro-4-piperazin-1-yl-3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 0.08014 mmol, 30 mg | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC=1C=NC=C(C1N1CCNCC1)F | C16H16F2N8O
reactant | Et3N | 0.1202 mmol, 16.75 μL, 12.16 mg | CCN(CC)CC | C6H15N
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | 2-amino-6-fluoro-N-(5-fluoro-4-(4-((tetrahydro-2H-pyran-4-yl)sulfonyl)piperazin-1-yl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC=1C=NC=C(C1N1CCN(CC1)S(=O)(=O)C1CCOCC1)F | C21H24F2N8O4S
